### PR TITLE
Add Erdős Problem 752 (cycle lengths in graphs of large girth), link the formal proof

### LINKED ISSUE #6378: Erdős Problem 752
### What is the Erdős problem?

https://www.erdosproblems.com/752

Let $G$ be a graph with minimum degree $k$ and girth $>2s$ (i.e. $G$ contains no cycles of length $\leq 2s$). Must there be $\gg k^s$ many distinct cycle lengths in $G$?

Status: proved (Sudakov–Verstraëte [SuVe08]). A formal proof exists in plby/lean-proofs (`Erdos752.erdos_752`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6378.

### What changed
Adds `FormalConjectures/ErdosProblems/752.lean` with `cycleLengths G` (lengths of simple cycles, via Mathlib walks) and girth expressed through `G.egirth`:
- `erdos_752` (`research solved`, `answer(True)`): for `s ≥ 1` and all large `k`, every finite graph with minimum degree `≥ k` and girth `> 2s` has `≫_s k^s` distinct cycle lengths (Sudakov–Verstraëte [SuVe08]). Linked to plby/lean-proofs `Erdos752.erdos_752` (Codex and GPT-5.6 Sol; 17 Mathlib-only files).
- Sorry'd variant: the Sudakov–Verstraëte strengthening (consecutive even cycle lengths under an average-degree hypothesis).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos752.erdos_752` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby produces a finset of cycle lengths with `k^s ≤ C · #L`; the bridge bounds `ncard` of the finite set of cycle lengths and translates the girth condition):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge752

lemma girth_iff {V : Type} (G : SimpleGraph V) (n : ℕ) :
    (n : ℕ∞) < G.egirth ↔ Erdos752Plby.GirthGreaterThan G n := by
  unfold Erdos752Plby.GirthGreaterThan
  have h1 : (n : ℕ∞) < G.egirth ↔ ((n + 1 : ℕ) : ℕ∞) ≤ G.egirth := by
    rw [← ENat.add_one_le_iff (ENat.natCast_ne_top n)]
    norm_cast
  rw [h1, le_egirth]
  refine forall_congr' fun v => forall_congr' fun p => forall_congr' fun _ => ?_
  norm_cast

/-- The set of cycle lengths of a finite graph is finite. -/
lemma cycleLengths_finite {V : Type} [Fintype V] (G : SimpleGraph V) [DecidableRel G.Adj] :
    (Erdos752.cycleLengths G).Finite := by
  refine (Set.finite_Iic G.edgeFinset.card).subset ?_
  rintro l ⟨v, p, hp, rfl⟩
  exact hp.isCircuit.isTrail.length_le_card_edgeFinset

theorem erdos_752_bridge : type_of% Erdos752.erdos_752 := by
  show True ↔ _
  simp only [true_iff]
  intro s hs
  obtain ⟨C, hC, k₀, h⟩ := Erdos752Plby.erdos_752 s hs
  refine ⟨1 / C, by positivity, ?_⟩
  filter_upwards [eventually_ge_atTop k₀] with k hk
  intro V _ _ G _ hmin hgirth
  obtain ⟨L, hL, hcyc⟩ := h k hk V G hmin ((girth_iff G _).1 hgirth)
  have hsub : (L : Set ℕ) ⊆ Erdos752.cycleLengths G := fun l hl => hcyc l hl
  have hcard : L.card ≤ (Erdos752.cycleLengths G).ncard := by
    rw [← Set.ncard_coe_finset]
    exact Set.ncard_le_ncard hsub (cycleLengths_finite G)
  have h1 : (k : ℝ) ^ s ≤ C * L.card := by exact_mod_cast hL
  have hCpos : (0 : ℝ) < C := by exact_mod_cast hC
  rw [div_mul_eq_mul_div, one_mul, div_le_iff₀ hCpos]
  calc (k : ℝ) ^ s ≤ C * L.card := h1
    _ ≤ (Erdos752.cycleLengths G).ncard * C := by
      rw [mul_comm]; gcongr

#print axioms Erdos752Plby.erdos_752
#print axioms erdos_752_bridge

end Bridge752
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«752»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/752.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+
+@[expose] public section
+
+open Filter SimpleGraph
+
+namespace Erdos752
+
+/-- The set of cycle lengths of `G`: the lengths of the simple cycles in `G`. -/
+def cycleLengths {V : Type*} (G : SimpleGraph V) : Set ℕ :=
+  {l | ∃ (v : V) (p : G.Walk v v), p.IsCycle ∧ p.length = l}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/752.lean:43]: isnt' this  `SimpleGraph.cycleLengths` from `Circumference.lean`?
